US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide
Following the procedure as described in Example 15, making variations as required to replace 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a colorless solid in 79% yield: mp 119-120° C.; 1H NMR (300 MHz, CDCl3) δ 8.59 (s, 1H), 8.52 (d, J=4.7 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.29-7.23 (m, 3H), 7.06-6.99 (m, 2H), 6.14 (t, J=5.7 Hz, 1H), 6.08 (s, 1H), 4.58 (d, J=5.7 Hz, 2H), 4.42 (s, 2H), 3.83-3.75 (m, 2H), 3.47-3.39 (m, 2H), 2.48 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 163.5, 162.4 (d, JC-F=246.4 Hz), 155.8, 149.2, 148.8, 142.5, 141.7, 135.5, 134.1, 131.7, (d, JC-F=3.1 Hz), 130.0 (d, JC-F=8.2 Hz), 123.6, 119.0, 115.7 (d, JC-F=21.5 Hz), 112.4, 47.4, 42.7, 41.4, 41.2, 16.1; MS (ES+) m/z 425.3 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)O | C17H15F3N2O3S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 79% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2C=NC=CC2)C)=O)C=C1 | C22H21FN4O2S
